US06506738B1
A mixture of 4-bromomethyl-benzoyl chloride (7.0 g, 30.24 mmol), polyvinyl pyridine (9.6 g, 90.7 mmol) and dimethyl amine (15.9 ml, 31.8 mmol, 2.0 M in THF) was stirred at 23° C. for 15 h. The solution was filtered and the solvent removed to give 7.3 g (99% yield) of 4-bromomethyl-N,N-dimethyl-benzamide as a yellow solid.

reactant | 4-bromomethyl-benzoyl chloride | 30.24 mmol, 7.0 g | BrCC1=CC=C(C(=O)Cl)C=C1 | C8H6BrClO
reactant | pyridine | 90.7 mmol, 9.6 g | N1=CC=CC=C1 | C5H5N
reactant | dimethyl amine | 31.8 mmol, 2.0 M, 15.9 ml | CNC | C2H7N
product | 4-bromomethyl-N,N-dimethyl-benzamide | 7.3 g, 99% yield | BrCC1=CC=C(C(=O)N(C)C)C=C1 | C10H12BrNO
